US05696129
Ethyl 3,4-dihydro-2H-pyrano[2,3-b]indolizine-10-carboxylate
A solution of 1,2-di-[(ethoxycarbonyl)methyl]pyridinium bromide (1.5 g, 0.0045 mole) and 1,3-dibromopropane (0.45 ml, 0.0045 mole) in ethanol (10 ml) was added over 5 minutes to a stirred solution of potassium hydroxide (0.75 g, 0.0134 mole) in ethanol (15 ml) at 5° C. The mixture was then allowed to warm upto room temperature and stir for 20 h. The reaction mixture was diluted with water (150 ml) and extracted with ethyl acetate (2×100 ml). The combined extracts were dried (Na2SO4) and concentrated in vacuo to leave a brown oil. This was chromatographed on silica gel eluting with ether to afford the title compound as a yellow oil.

reactant | 1,2-di-[(ethoxycarbonyl)methyl]pyridinium bromide | 0.0045 mole, 1.5 g | [Br-].C(C)OC(=O)C[N+]1=C(C=CC=C1)CC(=O)OCC
reactant | 1,3-dibromopropane | 0.0045 mole, 0.45 ml | BrCCCBr | C3H6Br2
reactant | potassium hydroxide | 0.0134 mole, 0.75 g | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | Ethyl 3,4-dihydro-2H-pyrano[2,3-b]indolizine-10-carboxylate | O1CCCC2=C1C(=C1C=CC=CN21)C(=O)OCC | C14H15NO3
